US05464811
The resulting 2-fluoro-4-chloro-5-cyclopentyloxynitrobenzene (13.0 g, 50.1 mmol) was dissolved in toluene (100 ml), a catalytic amount of 10% palladium-carbon (0.5 g) was added thereto, and the mixture was reacted at room temperature to 70° C. under a hydrogen pressure of 3 to 5 arms. in a glass autoclave. After absorption of hydrogen gas ceased, the catalyst was removed by filtration, and the solvent was distilled off under reduced pressure from the filtrate to obtain substantially quantitatively oily 2-fluoro-4-chloro-5-cyclopentyloxyaniline. The spectral data and the like are as described in Reference Example 1.

reactant | 2-fluoro-4-chloro-5-cyclopentyloxynitrobenzene | 50.1 mmol, 13.0 g | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)[N+](=O)[O-] | C11H11ClFNO3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | 2-fluoro-4-chloro-5-cyclopentyloxyaniline | FC1=C(N)C=C(C(=C1)Cl)OC1CCCC1 | C11H13ClFNO
